US04798833
Crude 1-benzyloxy-2-benzyloxymethylbut-3-en-2-ol (1.42 g, 3.16 mmol) in 10 ml of CH2Cl2 was added to 0.71 g thionyl chloride (6 mmol) and 2 drops of DMF in 10 ml of CH2Cl2, and the solution was stirred for 0.5 h and evaporated in vacuum. Toluene was added and the mixture was evaporated in vacuum to yield crude 1-benzyloxy-2-benzyloxymethyl-4-chlorobut-2-ene.

reactant | 1-benzyloxy-2-benzyloxymethylbut-3-en-2-ol | 3.16 mmol, 1.42 g | C(C1=CC=CC=C1)OCC(C=C)(O)COCC1=CC=CC=C1 | C19H22O3
reactant | thionyl chloride | 6 mmol, 0.71 g | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-benzyloxy-2-benzyloxymethyl-4-chlorobut-2-ene | C(C1=CC=CC=C1)OCC(=CCCl)COCC1=CC=CC=C1 | C19H21ClO2
